US04385177
Acetoxymethyl (6R,7R)-3-acetoxymethyl-7-[Z-2-methoxycarbamoylmethoxyimino-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylate
(6R,7R)-3-Acetoxymethyl-7-[Z-2-methoxycarbamoylmethoxyimino-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylic acid (992 mg) was dissolved in dry N,N-dimethylformamide (8 ml). Dried potassium carbonate (138 mg) was added and the mixture was stirred at 0°. Iodomethyl acetate (1.1 g) in a little dimethylformamide was added, stirring was continued at 0° for 1 hr, and the mixture was poured into hydrochloric acid (N, 50 ml) and extracted with ethyl acetate (3×50 ml). The ethyl acetate extracts were washed with N-hydrochloric acid (2×50 ml), water (100 ml) and saturated sodium hydrogen carbonate solution (2×30 ml), dried (Na2SO4) and evaporated. The residue in a little ethyl acetate was added dropwise to well-stirred light petroleum (b.p. 40°-60°), when the ester separated as an off-white powder, 513 mg, λmax (EtOH) 277.5 nm, νmax (Nujol) 3240 (--NH), 1786 (β-lactam), 1765, 1742 (acetate+--CO2CH2OCOCH3), 1680, 1540 cm-1 (--CONH--), τ(DMSOd6) 6.25 (--OCH3, 2--CH2 --), 5.38 (--O--CH2 --CO--), 2.01, 3.11, 3.22 (fur-2-yl), 0.18 (--CONH--), 4.05 (7H), 4.69 (6H), 4.99, 5.25 (3--CH2 --), 7.86, 7.96 (--COCH3), 4.09 (--OCH2O--).

reactant | (6R,7R)-3-Acetoxymethyl-7-[Z-2-methoxycarbamoylmethoxyimino-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylic acid | 992 mg | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(\C=2OC=CC2)=N/OCC(NOC)=O)=O)=O | C19H20N4O10S
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Iodomethyl acetate | 1.1 g | C(C)(=O)OCI | C3H5IO2
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | Acetoxymethyl (6R,7R)-3-acetoxymethyl-7-[Z-2-methoxycarbamoylmethoxyimino-2-(fur-2-yl)acetamido]-ceph-3-em-4-carboxylate | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OCOC(C)=O)C([C@H]2NC(\C(\C=2OC=CC2)=N/OCC(NOC)=O)=O)=O | C22H24N4O12S
